data/mechanism_extracts/Synthesis/10.1055_s-0037-1611791.json
{"doi": "10.1055_s-0037-1611791", "journal": "Synthesis", "is_review": false, "rxn_class_summary": "Diastereodivergent bromoiminolactonization of α-allylmalonamides to bromo-substituted iminolactones, performed either electrochemically (with Zn(OTf)2/2,2'-bipyridine and Et4NBr) or chemically (NBS/Et4NBr).", "mechanism_family": ["mediator_anodic", "cation_initiated"], "electrochemical_role": "Anodic oxidation of bromide (Et4NBr) generates an electrophilic brominating species (bromo cation / Br+ equivalent) that is delivered to the alkene; Et4N+ pairs with this bromo cation to modulate selectivity.", "key_intermediates": [{"name": "electrochemically generated bromo cation (Br+ equivalent) complexed with Et4N+", "smiles": null, "role": "reactive"}, {"name": "bromonium ion on allyl alkene of α-allylmalonamide", "smiles": null, "role": "transient"}, {"name": "trans-bromoiminolactone 2a' (major)", "smiles": null, "role": "reactive"}, {"name": "cis-bromoiminolactone 2a (minor)", "smiles": null, "role": "reactive"}], "electron_flow": "Bromide is oxidized at the anode (directly or via Et4NBr) to an electrophilic bromo cation that forms a bromonium ion on the allyl group; intramolecular 5-exo attack by the amide oxygen closes the iminolactone with preferential trans diastereoselectivity.", "rate_determining_step": null, "probe_reagents": [{"name": "NBS / Et4NBr (chemical control)", "smiles": "O=C1CC(=O)N1Br", "purpose": "other", "observation": "Chemical bromocyclization with NBS/Et4NBr also gave trans-2a' preferentially but with lower dr than the electrochemical conditions, supporting that an Et4NBr–bromo cation complex (rather than Zn(OTf)2/bipy alone) governs selectivity."}, {"name": "oxalic acid hydrolysis of 2a/2a'", "smiles": "OC(=O)C(=O)O", "purpose": "intermediate_trap", "observation": "Iminolactones 2a/2a' hydrolyzed cleanly to the corresponding lactones 3a (82%) and 3a' (85%) with retention of stereochemistry."}, {"name": "4-bromobenzenethiol substitution", "smiles": "Sc1ccc(Br)cc1", "purpose": "intermediate_trap", "observation": "Nucleophilic displacement of the C–Br in 2a/2a' afforded thioether iminolactones 4a (91%) and 4a' (92%), confirming the bromide position and configuration."}], "evidence_types_used": ["stoichiometric_intermediate", "isolation_of_intermediate"], "evidence_strength": "weak", "notes": "The authors explicitly state that the role of Zn(OTf)2 and 2,2'-bipyridine in the electrochemical reaction remains unclear; they propose that Et4NBr complexes with an anodically generated bromo cation to control diastereoselectivity. No radical traps, CV, or DFT studies are reported on these pages; mechanistic support is indirect (comparison of chemical vs electrochemical bromination and product derivatization). Asymmetric variants and deeper mechanistic studies are stated to be ongoing."}
